US07781438B2
Preparation of (2-Chloro-7-cyano-naphthalen-1-yl)-acetic acid ethyl ester
(2-Chloro-7-trifluoromethanesulfonyloxy-naphthalen-1-yl)-acetic acid ethyl ester (9.30 g, 23.43 mmol) is dissolved in DMF (80 ml) under an atmosphere of argon. Palladium(0) tetrakis(triphenylphosphane) (1.08 g, 0.9375 mmol) and zinc(II) cyanide (5.50 g, 46.87 mmol) are added. The reaction mixture is heated to 125° C. After 1 h, TLC analysis indicates complete consumption of starting material. The suspension is cooled to RT and poured onto water. After stirring for 15 minutes, filtration and concentration affords the crude reaction product. Purification by FCC (hexane/EtOAc 4:1) affords the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.26 (t, J=8.8 Hz, 3H), 4.19 (q, J=8.8 Hz, 2H), 4.28 (s, 2H), 7.62-7.66 (m, 2H), 7.79 (d, J=9.9 Hz, 1H), 7.92 (d, J=9.9 Hz, 1H), 8.32 (s, 1H). ES+-MS: 274.2 [M+H]+.

reactant | (2-Chloro-7-trifluoromethanesulfonyloxy-naphthalen-1-yl)-acetic acid ethyl ester | 23.43 mmol, 9.30 g | C(C)OC(CC1=C(C=CC2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)Cl)=O | C15H12ClF3O5S
reactant | DMF | 80 ml | CN(C)C=O | C3H7NO
catalyst | Palladium(0) tetrakis(triphenylphosphane) | 0.9375 mmol, 1.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
catalyst | zinc(II) cyanide | 46.87 mmol, 5.50 g | [C-]#N.[Zn+2].[C-]#N
product | (2-Chloro-7-cyano-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC2=CC=C(C=C12)C#N)Cl)=O | C15H12ClNO2
